US08754079B2
VIII.5. N-[cis-4-(5-Fluoro-2-nitro-phenoxy)-cyclohexyl]-N-methylmethanesulfonamide
Prepared analogously to example IV.3 from 0.252 g [cis-4-(5-fluoro-2-nitro-phenoxy)cyclohexyl]-methyl-amine hydrochloride and methanesulfonyl chloride.

reactant | [cis-4-(5-fluoro-2-nitro-phenoxy)cyclohexyl]-methyl-amine hydrochloride | 0.252 g | Cl.FC=1C=CC(=C(O[C@H]2CC[C@H](CC2)NC)C1)[N+](=O)[O-]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-[cis-4-(5-Fluoro-2-nitro-phenoxy)-cyclohexyl]-N-methylmethanesulfonamide | FC=1C=CC(=C(O[C@H]2CC[C@H](CC2)N(S(=O)(=O)C)C)C1)[N+](=O)[O-] | C14H19FN2O5S
